US07777038B2
A THF solution (2 ml) of 100 mg (0.18 mmol) of 5-[1-(3-hydroxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl]-3-trityl thiazolidine-2,4-dione, 0.0363 ml (0.347 mmol) of p-cresol, and 91.1 mg (0.35 mmol) of triphenylphosphine was cooled with ice. 0.158 ml of azodicarboxylic acid diethyl (2.2 M toluene solution) was added to the solution in an argon atmosphere. The mixture was stirred at room temperature for two hours, and ethyl acetate was added to the reaction liquid. After washing with water, the organic layer was concentrated under reduced pressure, and the residue was purified by preparative silica gel thin layer chromatography (n-hexane:ethyl acetate=1:1). The purified product was concentrated under reduced pressure, and 2 ml of a solution of 4N-hydrogen chloride/ethyl acetate was added to the residue. The mixture was stirred at room temperature overnight, and further stirred at 70° C. for 1.5 hours. The mixture was concentrated under reduced pressure, and the residue was purified by preparative silica gel thin layer chromatography (n-hexane:ethyl acetate=1:1). The purified product was concentrated under reduced pressure and evaporated to dryness, giving 27.1 mg (34.4% yield) of 5-{1-[3-(4-methylphenoxy)propyl]-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl}thiazolidine-2,4-dione as a colorless amorphous solid.

reactant | 5-[1-(3-hydroxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl]-3-trityl thiazolidine-2,4-dione | 0.18 mmol, 100 mg | OCCCN1C(CCC2=C(C=CC=C12)CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C35H32N2O4S
reactant | p-cresol | 0.347 mmol, 0.0363 ml | C1=CC(=CC=C1O)C | C7H8O
reactant | triphenylphosphine | 0.35 mmol, 91.1 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylic acid diethyl | 2.2 M, 0.158 ml | CCOC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 5-{1-[3-(4-methylphenoxy)propyl]-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl}thiazolidine-2,4-dione | 27.1 mg, 34.4% yield | CC1=CC=C(OCCCN2C(CCC3=C(C=CC=C23)CC2C(NC(S2)=O)=O)=O)C=C1 | C23H24N2O4S
